US07452908B2
Synthesis of (2R)-N-{((3R)-1-cyclohexylmehyl-3-piperidyl)methyl}-1-{(2S,4R)-4-(methylsulfonyloxy)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide
To a solution of 30 mg of (2R)-N-{((3R)-1-cyclohexylmehyl-3-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide in 0.6 ml of chloroform, 0.018 ml of triethylamine and 0.004 ml of methanesulfonyl chloride were added under cooling with ice, followed by 50 minutes' stirring at room temperature. The reaction liquid was diluted with chloroform, washed with saturated aqueous sodium bicarbonate solution and dried over anhydrous sodium sulfate. Distilling the solvent off under reduced pressure, the resultant residue was purified by means of a preparative thin-layer chromatography (Kieselgel™ 60F254, Art 5744 (Merck), chloroform/methanol/28% aqueous ammonia=100/10/1) to provide 33 mg of the title compound.

reactant | (2R)-N-{((3R)-1-cyclohexylmehyl-3-piperidyl)methyl}-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide | 30 mg | C1(CCCCC1)CN1C[C@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)O)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C44H56N4O4
reactant | methanesulfonyl chloride | 0.004 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | 0.6 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.018 ml | C(C)N(CC)CC | C6H15N
product | (2R)-N-{((3R)-1-cyclohexylmehyl-3-piperidyl)methyl}-1-{(2S,4R)-4-(methylsulfonyloxy)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonylpyrrolidine-2-carboxamide | 33 mg | C1(CCCCC1)CN1C[C@H](CCC1)CNC(=O)[C@@H]1N(CCC1)C(=O)[C@H]1N(C[C@@H](C1)OS(=O)(=O)C)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C45H58N4O6S
